US08912210B2
Step B: (5-Bromopyridine-2,3-diyl)dimethanol
Sodium borohydride (15.9 g, 420 mmol) was added portionwise over 30 min to a solution of dimethyl 5-bromopyridine-2,3-dicarboxylate (20 g, 73 mmol) in ethanol (460 mL) precooled to 0° C. A solution of calcium chloride (23.3 g, 209 mmol) in 150 mL was added slowly at 0° C., and the reaction mixture was warmed to 23° C. and stirred overnight. Excess sodium borohydride was quenched by slow addition of aqueous 2 N HCl solution (230 mL, 460 mmol), followed by a stirring at 23° C. for 2 h. The mixture was concentrated to dryness. Saturated aqueous sodium bicarbonate solution was added to the residue until a pH of approximately 7 was reached. The aqueous mixture was extracted with 2-methyltetrahydrofuran (4×200 mL). The combined organic layers were dried over sodium sulfate then treated with a solution of 4 N HCl in dioxane (25 mL, 100 mmol). The resulting solid was filtered, washed with 2-methyltetrahydrofuran, and dried to give the title compound as a hydrochloride salt. MS: m/z=218.1 (M+1).

reactant | Sodium borohydride | 420 mmol, 15.9 g | [BH4-].[Na+]
reactant | dimethyl 5-bromopyridine-2,3-dicarboxylate | 73 mmol, 20 g | BrC=1C=C(C(=NC1)C(=O)OC)C(=O)OC | C9H8BrNO4
reactant | calcium chloride | 209 mmol, 23.3 g | [Cl-].[Ca+2].[Cl-]
reactant | HCl | 460 mmol, 2 N, 230 mL | Cl | ClH
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 100 mmol, 25 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 460 mL | C(C)O | C2H6O
product | (5-Bromopyridine-2,3-diyl)dimethanol | BrC=1C=C(C(=NC1)CO)CO | C7H8BrNO2
